US05385842
All the above-named compounds except N-[1-(9,10 dihydro-9,10 dioxo)anthracenyl]-N'-(1-methylethyl)imido dicarbonimidic diamide hydrochloride are commercially available. N-[1-(9,10 dihydro-9,10 dioxo)anthracenyl]-N'-(1-methylethyl)imido dicarbonimidic diamide hydrochloride, however, is a novel compound and was synthesized as follows: A three liter round bottomed flask was charged with 18.2 g (3.09 mole) of isopropyl amine. After cooling the flask to -70° C. in a dry ice and acetone bath, 304.5 g of concentrated (37%) hydrochloric acid (3.09 mole) was added. The mixture was warmed to room temperature and water was removed with a rotary evaporator at aspirator pressure. To the dry residue was added 275.3 g (3.09 mole) of sodium dicyanamide and 760 ml of 1-butanol. The mixture was heated under reflux for three hours and then the butanol was removed with a rotary evaporator at aspirator pressure. To the residue in the flask was added 1800 ml of 1,4-dioxane. A slightly sticky precipitate was formed which was filtered and recrystallized from four liters of 1,4-dioxane to yield 379 g of N-cyano-N'-isopropylguanidine as a co-precipitate with some NaCl, 1,4-dioxane, and isopropylamine. Calc. for C5H10N4 (NaCl)0.1(C4H8O2)0.1(C3H9N)0.15 Calc: C 46.94; H 8.18; N 38.83; C12.37 Found: C 46.85; H 8.27; N 38.42; Cl 2.44

reactant | isopropyl amine | 3.09 mole, 18.2 g | C(C)(C)N | C3H9N
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | 3.09 mole | Cl | ClH
reactant | sodium dicyanamide | 3.09 mole, 275.3 g | [N-](C#N)C#N.[Na+]
solvent | 1-butanol | 760 ml | C(CCC)O | C4H10O
solvent | acetone | CC(=O)C | C3H6O
product | N-cyano-N'-isopropylguanidine | 379 g | C(#N)NC(=N)NC(C)C | C5H10N4
